US04774253
55 g (0.47 mol) of methyl 2-hydroxy-2-methylpropionate in 400 ml of dry dimethylformamide were added dropwise while stirring during 0.75 hour to 14 g (0.47 mol, 80% oil dispersion) of sodium hydride in 200 ml of dry dimethylformamide. After 3 hours at 20° C. 62.5 g (0.42 mol) of propargyl bromide (as a 80% solution in toluene) in 200 ml of dimethylformamide was added during 0.5 hour while cooling to maintain the temperature below 25° C. After stirring at 20° C. for 17 hours the mixture was poured on to ice and extracted with toluene. The toluene phase was evaporated carefully and the residue was distilled at 80° C./15 mmHg to give 26.8 g (41%) of methyl 2-propynyloxy-2-methylpropionate.

reactant | methyl 2-hydroxy-2-methylpropionate | 0.47 mol, 55 g | OC(C(=O)OC)(C)C | C5H10O3
reactant | sodium hydride | 0.47 mol | [H-].[Na+]
reactant | propargyl bromide | 0.42 mol, 62.5 g | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 2-propynyloxy-2-methylpropionate | 26.8 g, 41% | C(#CC)OC(C(=O)OC)(C)C | C8H12O3
